US07041668B2
Sodium dithionite (3 g) was added to a solution of 4-(cyclopropylmethyl-amino)-benzenesulfonic acid 4-amino-3-nitro-phenyl ester (783 mg) and sodium hydroxyde (0.5 N, 15 ml) in ethanol (30 ml) at 80° C. The reaction mixture was stirred at 80° C. for 10 minutes then filtered then the filtrate was evaporated. The residue was extracted three times with ethyl acetate (30 ml). The combined extracts were dried over magnesium sulfate then evaporated to give 652 mg of 4-(cyclopropylmethyl-amino)-benzenesulfonic acid 3,4-diamino-phenyl ester.

reactant | Sodium dithionite | 3 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 4-(cyclopropylmethyl-amino)-benzenesulfonic acid 4-amino-3-nitro-phenyl ester | 783 mg | NC1=C(C=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)NCC1CC1)[N+](=O)[O-] | C16H17N3O5S
reactant | sodium | [Na] | Na
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 4-(cyclopropylmethyl-amino)-benzenesulfonic acid 3,4-diamino-phenyl ester | 652 mg | NC=1C=C(C=CC1N)OS(=O)(=O)C1=CC=C(C=C1)NCC1CC1 | C16H19N3O3S
